US06890952B2
Z-(4RS)3-(4-Dimethylaminomethyl-3,4-dihydro-2H-benzo[b]oxepin-5-ylidene-methyl)-phenol hydrochloride (6c)
A mixture of 4.78 g (4RS,5RS)-4-dimethylaminomethyl-5-(3-methoxybenzyl)-2,3,4,5-tetrahydrobenzo[b]oxepin-5-ol (prepared from 3-methoxybenzylmagnesium chloride and 4-dimethylaminomethyl-3,4-dihydro-2H-benzo[b]oxepin-5-one analogously to example 1, stage 1), 28 ml methanesulfonic acid and 3.20 g methionine was stirred at 40° C. for 4 days. Ice was then added and the mixture was cautiously rendered alkaline with sodium bicarbonate. It was extracted three times with 30 ml ethyl acetate each time and the extracts were washed with a saturated sodium chloride solution, dried over sodium sulfate and evaporated in vacuo. The crude product mixture obtained in this manner was separated by column chromatography with ethyl acetate and the individual compounds were converted into their hydrochlorides with trimethylchlorosilane/water in 2-butanone.

reactant | (4RS,5RS)-4-dimethylaminomethyl-5-(3-methoxybenzyl)-2,3,4,5-tetrahydrobenzo[b]oxepin-5-ol | 4.78 g | CN(C)CC1C(C2=C(OCC1)C=CC=C2)(O)CC2=CC(=CC=C2)OC | C21H27NO3
reactant | 3-methoxybenzylmagnesium chloride | COC=1C=C(C[Mg]Cl)C=CC1
reactant | 4-dimethylaminomethyl-3,4-dihydro-2H-benzo[b]oxepin-5-one | CN(C)CC1C(C2=C(OCC1)C=CC=C2)=O | C13H17NO2
reactant | methanesulfonic acid | 28 ml | CS(=O)(=O)O | CH4O3S
reactant | methionine | 3.20 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Z-(4RS)3-(4-Dimethylaminomethyl-3,4-dihydro-2H-benzo[b]oxepin-5-ylidene-methyl)-phenol hydrochloride | Cl.CN(C)CC1/C(/C2=C(OCC1)C=CC=C2)=C/C=2C=C(C=CC2)O | InChI=1S/C20H23NO2.ClH/c1-21(2)14-16-10-11-23-20-9-4-3-8-18(20)19(16)13-15-6-5-7-17(22)12-15;/h3-9,12-13,16,22H,10-11,14H2,1-2H3;1H/b19-13-;
